US04570007
340 g of 2-chloro-2-(2,2-dimethyl-1,3-dioxolan-4-yl)ethanol is dissolved in 1.5 l of absolute ether. At 5° C., a total of 130 g of pulverized potassium hydroxide is added under intensive agitation within 30 minutes, while the temperature is maintained between 5° and 15° C. by cooling. The suspension is then heated at 40° C. for 2 hours under gentle refluxing. After heater and agitator have been turned off, the phases begin to separate. After allowing the mixture to stand overnight, it is vacuum-filtered over kieselguhr. The residue is extracted with ether. The combined ether extracts are concentrated over a 60 cm Vigreux column. The residue (260 g) is distilled under vacuum, during which step 180 g of a colorless liquid passes over; this liquid is fractionated, yielding 2-(2,2-dimethyl-1,3-dioxolan-4-yl)ethylene oxide at 65° C./13 mm.

reactant | 2-chloro-2-(2,2-dimethyl-1,3-dioxolan-4-yl)ethanol | 340 g | ClC(CO)C1OC(OC1)(C)C | C7H13ClO3
reactant | potassium hydroxide | 130 g | [OH-].[K+]
solvent | ether | 1.5 l | CCOCC | C4H10O
product | 2-(2,2-dimethyl-1,3-dioxolan-4-yl)ethylene oxide | CC1(OCC(O1)C1CO1)C | C7H12O3
